US06759428B2
To 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide (200 mg, 0.44 mmol) was added sodium iodide (66 mg, 0.44 mmol), acetonitrile (2 mL), and piperidine (0.1 mL, 1.3 mmol). The reaction mixture was heated to 50° C. and stirred for 24 hrs. Water (15 mL) was added to the reaction and extracted with three 20 mL portions of ethyl acetate. The combined organics were washed with saturated NaHCO3 (20 mL), dried on sodium sulfate, and concentrated. Purification by column chromatography (5:95 methanol:chloroform) gave 1-(3-piperidin-1-yl-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide as a white solid (150 mg, 68%). MS: 506 (M+H).

reactant | 1-(3-chloro-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)cyclohexyl]-amide | 0.44 mmol, 200 mg | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)CCCCl | C25H33ClN4O2
reactant | sodium iodide | 0.44 mmol, 66 mg | [I-].[Na+]
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | piperidine | 1.3 mmol, 0.1 mL | N1CCCCC1 | C5H11N
solvent | Water | 15 mL | O | H2O
product | 1-(3-piperidin-1-yl-propyl)-1H-indole-2-carboxylic acid [(1S,2R)-2-((S)-1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide | 150 mg, 68% | C(#N)[C@H](CC(C)C)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)CCCN1CCCCC1 | C30H43N5O2
